* BSS84 PMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2019/07/12
**************D G S
.SUBCKT BSS84 1 2 3
M1   11 22 3 3 MOS_P
D1         1 3 DDS
R1        1 11 RTH 1.58
D2       11 22 DDG
R2        2 22 388
.MODEL MOS_P PMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=.1
+ KP=10.490E-6
+ RS=1
+ RD=0
+ VTO=-2.0923
+ RDS=60.000E6
+ TOX=2.0000E-6
+ CGSO=330p
+ CGDO=0p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.5
+ ETA=0.5000E-3
+ KAPPA=0
+ UO=300
+ NFS=14G
.MODEL DDS D
+ IS=395.02E-15
+ N=1.1367
+ RS=.11308
+ IKF=39.820E-3
+ CJO=10.187E-12
+ M=.3881
+ VJ=.56642
+ BV=60
+ TT=20n
.MODEL DDG D
+ CJO=4.4112E-12
+ M=.24098
+ VJ=1.7797
+ N=10000
+ FC=0.975
+ T_ABS=25
.MODEL RTH RES
+ TC1=0.0087
+ TC2=0.0030E-3
.ENDS BSS84
