*****************************************************
* solar cell model based on
* https://electronics.stackexchange.com/questions/257253/modeling-a-solar-panel-for-simulations
* http://intusoft.com/nlhtm/nl78.htm#The_Solar_Cell_SPICE_Model
* define Imax and Vmax
*****************************************************
.subckt solarcell A C
R1 A C {Rshunt}
R2 1 A {Rseries}
D1 1 C Dpv
I1 C 1 {Imax}
.param Rseries=.5 Rshunt=1meg Is=1e-11 Imax=.33 Vmax=21
.param N=Vmax*38.6/log(Imax/Is)
.model Dpv D(N={N} XTI={3*N} IS={Is} EG={1.11*N}
.end
